US06689922B1
(3E,5E)-6-{3-[2-(3,4-bis-Hydroxymethylphenyl)ethyl]-phenyl}-2-methylhepta-3,5-dien-2-ol
In a manner similar to Example 59(h), by reacting 410 mg (0.7 mmol) of (3E,5E)-6-{3-[2-(3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-phenyl}-2-methylhepta-3,5-dien-2-ol (prepared in a manner similar to Examples 53(a-g)) with 2 ml (2 mmol) of a tetrabutylammonium fluoride solution (1M in THF), a colourless oil is obtained (m=230 mg; Y=96%).

reactant | (3E,5E)-6-{3-[2-(3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-phenyl}-2-methylhepta-3,5-dien-2-ol | 0.7 mmol, 410 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)/C(=C/C=C/C(C)(O)C)/C | C36H58O3Si2
reactant | tetrabutylammonium fluoride | 2 mmol, 1M, 2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3E,5E)-6-{3-[2-(3,4-bis-Hydroxymethylphenyl)ethyl]-phenyl}-2-methylhepta-3,5-dien-2-ol | OCC=1C=C(C=CC1CO)CCC=1C=C(C=CC1)/C(=C/C=C/C(C)(O)C)/C | C24H30O3
